US09315475B2
Step 4. Preparation of tert-butyl (2S,5S)-2-[2-(2-aminophenyl)-1-fluoroethyl]-5-({[tert-butyl(diphenyl)silyl]oxy}methyl)morpholine-4-carboxylate
A solution of intermediate tert-butyl (2S,5S)-5-({[tert-butyl(diphenyl)silyl]oxy}methyl)-2-[1-fluoro-2-(2-nitrophenyl)ethyl]morpholine-4-carboxylate (1 eq.) in a mixture 5:2:1 THF:MeOH:H2O (0.002 M) was warmed up to +59° C. and treated with solid iron (223 eq.). The mixture was further stirred at the same temperature for 45 min, diluted with DCM, washed with sat. NaHCO3, dried over MgSO4, filtered and concentrated. The product was submitted to the next step without further purification. Light yellow oil.

reactant | tert-butyl (2S,5S)-5-({[tert-butyl(diphenyl)silyl]oxy}methyl)-2-[1-fluoro-2-(2-nitrophenyl)ethyl]morpholine-4-carboxylate | 1 eq. | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@@H]1CO[C@@H](CN1C(=O)OC(C)(C)C)C(CC1=C(C=CC=C1)[N+](=O)[O-])F | C34H43FN2O6Si
reactant | THF | C1CCOC1 | C4H8O
reactant | MeOH | CO | CH4O
reactant | H2O | 0.002 M | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | iron | 223 eq. | [Fe] | Fe
product | tert-butyl (2S,5S)-2-[2-(2-aminophenyl)-1-fluoroethyl]-5-({[tert-butyl(diphenyl)silyl]oxy}methyl)morpholine-4-carboxylate | NC1=C(C=CC=C1)CC(F)[C@@H]1CN([C@@H](CO1)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C(=O)OC(C)(C)C | C34H45FN2O4Si
